US06809108B1
(2R)-N-{(1-methyl-3-piperidyl)methyl}-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide
The title compound was prepared by a method similar to Step 7 of Example 1 using (2R)-N-(3-piperidylmethyl)-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide monohydrochloride and 37% aqueous formaldehyde solution. The compound was obtained as a white solid.

reactant | (2R)-N-(3-piperidylmethyl)-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide monohydrochloride | Cl.N1CC(CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | formaldehyde | C=O | CH2O
product | (2R)-N-{(1-methyl-3-piperidyl)methyl}-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | CN1CC(CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C38H46N4O3
